US05747499
Pentafluorophenyl o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate
An aqueous solution of formaldehyde (37% weight/volume, 17.55 ml) was added dropwise during 15 minutes to a stirred solution of pentafluorophenyl o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate (13 g), prepared as described in Example 1, in glacial acetic acid (100 ml). The mixture was stirred at ambient temperature for 1 hour. Sodium cyanoborohydride (1.36 g) was added portionwise during 30 minutes and the resultant mixture was stirred at ambient temperature for 2 hours. The mixture was poured onto a mixture of ice and water (500 ml) and extracted with ethyl acetate. The organic phase was dried (MgSO4) and evaporated. The product was purified by column chromatography using increasingly polar mixtures of hexane and ethyl acetate as eluant. There was thus obtained pentafluorophenyl o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate (11 g);

reactant | formaldehyde | 17.55 ml | C=O | CH2O
reactant | pentafluorophenyl o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate | 13 g | FC1=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC(=C1)NC1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O | C31H25F6N3O5
reactant | Sodium cyanoborohydride | 1.36 g | C(#N)[BH3-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | Pentafluorophenyl o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate | FC1=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC(=C1)N(C1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O)C | C32H27F6N3O5
